US03987047
9-Chloro-1,2,4,5-tetrahydro-11-phenyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 9-chloro-1,2,4,5-tetrahydro-11-phenyl-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 9-chloro-1,2,4,5-tetrahydro-11-phenyl-3H-azepino[4,5-b]quinoline | ClC1=CC=2C(=C3C(=NC2C=C1)CCNCC3)C3=CC=CC=C3 | C19H17ClN2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 9-Chloro-1,2,4,5-tetrahydro-11-phenyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 65% | Cl.C(C)OC(=O)N1CCC2=NC=3C=CC(=CC3C(=C2CC1)C1=CC=CC=C1)Cl | InChI=1S/C22H21ClN2O2.ClH/c1-2-27-22(26)25-12-10-17-20(11-13-25)24-19-9-8-16(23)14-18(19)21(17)15-6-4-3-5-7-15;/h3-9,14H,2,10-13H2,1H3;1H
